US20010006969A1
2-Chloro-4-heptylamino-6-nitroquinazoline
To 300 mg (1.45 mmol) of 6-nitroquinazoline-2,4 (1H,3H)-dione were added 1 ml of 1,3-dimethyl-2-imidazolidinone and 2.22 g (14.48 mmol) of phosphorus oxychloride, and the resulting mixture was subjected to heating under reflux for 3 hours. After phosphorus oxychloride was removed in vacuo, the mixture was dissolved in 3 ml of acetonitrile, followed by addition of 5.38 ml (36.25 mmol) of heptylamine and stirring under ice cooling for 30 minutes. To the reaction solution was added water, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 247 mg (yield: 52.8%) of the title compound (yield: 52.8%).

reactant | 6-nitroquinazoline-2,4 (1H,3H)-dione | 1.45 mmol, 300 mg | [N+](=O)([O-])C=1C=C2C(NC(NC2=CC1)=O)=O | C8H5N3O4
reactant | 1,3-dimethyl-2-imidazolidinone | 1 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | phosphorus oxychloride | 14.48 mmol, 2.22 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | heptylamine | 36.25 mmol, 5.38 ml | C(CCCCCC)N | C7H17N
solvent | water | O | H2O
product | 2-Chloro-4-heptylamino-6-nitroquinazoline | 247 mg, yield: 52.8% | ClC1=NC2=CC=C(C=C2C(=N1)NCCCCCCC)[N+](=O)[O-] | C15H19ClN4O2
